US05760264
(R)-(1-Hydroxypropyl)ferrocene
2.5 ml (25 mmol) of borane-dimethyl sulphide adduct were added dropwise at 200C to a solution of 10.0 g (41.3 mmol) of propionylferrocene and 2.5 ml (2.5 mmol, 0.06 eq) of catalyst (S)-III (R6 =CH3) in 30 ml of tetrahydrofuran over a period of 30 minutes. After 1 hour at 20°-25° C., the reaction mixture was poured while stirring vigorously onto about 200 ml of ice/water and stirred for 0.5 hours. The aqueous phase was subsequently extracted three times with 200 ml each time of tert-butyl methyl ether, the combined organic phases were dried over magnesium sulphate and evaporated in a high vacuum. This gave 10.7 g (106%) of the crude title compound. This crude product can be used without further purification for the further reactions.

reactant | borane dimethyl sulphide | 25 mmol, 2.5 ml | B.CSC
reactant | propionylferrocene | 41.3 mmol, 10.0 g | C(CC)(=O)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | (R)-(1-Hydroxypropyl)ferrocene | O[C@H](CC)[C-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C8H11O.C5H5.Fe/c1-2-8(9)7-5-3-4-6-7;1-2-4-5-3-1;/h3-6,8-9H,2H2,1H3;1-5H;/q2*-1;+2/t8-;;/m1../s1
